US08389526B2
(rac)-1-(6-Chloro-imidazo[1,2-b]pyridazin-3-yl)-1-(5,7-difluoro-quinolin-6-yl)-ethanol
A solution of 5,7-difluoro-quinoline (CAS 34522-72-0, 18.57 g, 112 mmol) in dry THF (120 mL) was added dropwise to a freshly prepared solution of LDA (n-BuLi 77 mL and diisopropylamine 18.94 mL, 123 mmol, in 500 mL THF) at −78° C. The solution was stirred at this temperature for 1 h, and then the solution of 1-(6-chloro-imidazo[1,2-b]pyridazin-3-yl)ethanone (CAS 90734-71-7, 20.0 g, 102 mmol) in 400 mL THF was added dropwise at −70° C. After stirring additional 45 min at −70 to −30° C. the RM was quenched with 1M NH4Cl, diluted with water, and extracted with EtOAc (3×). The organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography and then crystallized in DCM to afford the title compound as a beige solid (tR 2.94 min (conditions 1), MH+=361, 1H-NMR in DMSO-d6: 8.93 (d, 1H); 8.43 (d, 1H); 8.18 (d, 1H); 7.92 (s, 1H); 7.57 (m, 2H); 7.24 (d, 1H); 6.49 (s, 1H); 2.18 (s, 3H)).

reactant | 5,7-difluoro-quinoline | 112 mmol, 18.57 g | FC1=C2C=CC=NC2=CC(=C1)F | C9H5F2N
reactant | LDA | 123 mmol, 77 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-(6-chloro-imidazo[1,2-b]pyridazin-3-yl)ethanone | 102 mmol, 20.0 g | ClC=1C=CC=2N(N1)C(=CN2)C(C)=O | C8H6ClN3O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | (rac)-1-(6-Chloro-imidazo[1,2-b]pyridazin-3-yl)-1-(5,7-difluoro-quinolin-6-yl)-ethanol | ClC=1C=CC=2N(N1)C(=CN2)C(C)(O)C=2C(=C1C=CC=NC1=CC2F)F | C17H11ClF2N4O
